US08530480B2
4-(3-nitro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)morpholine was prepared from 4-(3-bromo-5-nitrophenyl)morpholine and bis(pinacolato)diboron by following procedure A in 90% yield.

reactant | 4-(3-bromo-5-nitrophenyl)morpholine | BrC=1C=C(C=C(C1)[N+](=O)[O-])N1CCOCC1 | C10H11BrN2O3
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 4-(3-nitro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)morpholine | 90% yield | [N+](=O)([O-])C=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)N1CCOCC1 | C16H23BN2O5
